US06358665B1
Preparation of tris-(4-t-butylphenyl) sulfonium nonafluorobutane sulfonate (PAG 203)
48.18 g (0.15 mol) of bis-(4-t-butylphenyl) sulfoxide (prepared from diphenyl sulfide and t-butyl bromide via FeCl3 catalyzed alkylation and subsequent oxidation with 2-chlorobenzoic acid) was dissolved in 400 ml of 4-t-butylbenzene in a 1-liter three-neck round-bottom flask equipped with a stirrer, a thermometer, a dropping funnel, a condenser and a nitrogen inlet. The mixture was cooled to 4° C. with vigorous stirring. A solution of 63.0 g (0.30 mol) of trifluoroacetic anhydride and 45.0 g (0.15 mol) of nonafluorobutane sulfonic acid was added dropwise thereto, while the temperature was maintained under ice cooling. After completion of the addition, the mixture was stirred for 1 hour. The temperature was returned to room temperature, followed by stirring for additional 15 hours. After standing overnight, two separate phases were formed. The upper phase was removed and discarded. The oily bottom phase of approximately 150 ml volume was diluted with 800 ml of diethyl ether, and washed twice with water and a sodium bicarbonate solution. The organic phase was dried over MgSO4. After removal of the solvent, a semicrystalline solid was obtained. The semicrystalline solid was recrystallized from diethyl ether. Thus, 66.1 g (60.2%) of white crystals of tris-(4-t-butylphenyl) sulfonium nonafluorobutane sulfonate (m.p. 198-200° C.) was obtained.

reactant | bis-(4-t-butylphenyl) sulfoxide | 0.15 mol, 48.18 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C(C)(C)C | C20H26OS
reactant | trifluoroacetic anhydride | 0.30 mol, 63.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nonafluorobutane sulfonic acid | 0.15 mol, 45.0 g | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(F)F | C4HF9O3S
reactant | 4-t-butylbenzene | 400 ml | C(C)(C)(C)C1=CC=CC=C1 | C10H14
product | tris-(4-t-butylphenyl) sulfonium nonafluorobutane sulfonate | 66.1 g, 60.2% | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C30H39S.C4HF9O3S/c1-28(2,3)22-10-16-25(17-11-22)31(26-18-12-23(13-19-26)29(4,5)6)27-20-14-24(15-21-27)30(7,8)9;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h10-21H,1-9H3;(H,14,15,16)/q+1;/p-1
